US07667041B2
Synthesis of 1-(4-[1,3]dioxolan-2-yl-2-methoxyphenyl)-1H-imidazole
To a toluene (70 mL) solution of 4-(1H-imidazol-1-yl-3-methoxybenzaldehyde (4.3 g) and ethylene glycol (6.5 g), para-toluenesulfonic acid monohydrate (4.8 g) was added, Dean-Stark equipment was attached and heat-refluxing was carried out for 4 hours. After allowing cool the reaction mixture to room temperature, a saturated sodium bicarbonate water and ethyl acetate were added, and the organic layer was partitioned. The organic layer was washed with a saturated salt solution and concentrated under reduced pressure after dried over anhydrous magnesium sulfate. The residue was purified by silica gel column chromatography (elution solvent:hexane-ethyl acetate system), and 3.15 g of the title compound was obtained. The physical properties of the compound are as follows.

reactant | toluene | 70 mL | C1(=CC=CC=C1)C | C7H8
reactant | 1H-imidazol-1-yl-3-methoxybenzaldehyde | 4.3 g | N1(C=NC=C1)C1=C(C=O)C=CC=C1OC | C11H10N2O2
reactant | para-toluenesulfonic acid monohydrate | 4.8 g | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
reactant | sodium bicarbonate water | O.C([O-])(O)=O.[Na+]
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | ethylene glycol | 6.5 g | C(CO)O | C2H6O2
product | 1-(4-[1,3]dioxolan-2-yl-2-methoxyphenyl)-1H-imidazole | 3.15 g | O1C(OCC1)C1=CC(=C(C=C1)N1C=NC=C1)OC | C13H14N2O3
